### PR TITLE
Folding Polynomial definition and Fact 4.6 proof from STIR paper

### PR DESCRIPTION
**Pull request by ElijahVlasov**
This PR introduces a generalisation of folding operation in FRI as stated in the fact 4.6 from the STIR paper (first appears as proposition 6.3 in Short PCPs with Polylog Query Complexity: https://people.csail.mit.edu/madhu/papers/2005/rspcpp-full.pdf) and prove that the general version coincides with `SplitFold` for `q = X ^ k`.

The fact 4.6 is proven end-to-end.

### CODE REVIEW

File: ArkLib/Data/Polynomial/FoldingPolynomial.lean [hunk 1]
```diff
@@ -0,0 +1,812 @@
...
+import ArkLib.Data.Polynomial.Bivariate
+
+import Mathlib.Algebra.Polynomial.Basic
+import Mathlib.Tactic.Cases
+import Mathlib.Tactic.LinearCombination'
+
+/-!
+  Proof of Proposition 6.3 from  
+    Eli Ben-Sasson and Madhu Sudan. 
+      “Short PCPs with Polylog Query Complexity”. In: SIAM Journal on Computing 38.2 (2008).
```
Comment (alexanderlhicks) [inline ArkLib/Data/Polynomial/FoldingPolynomial.lean]: could we reference this (and STIR below) in line with https://github.com/Verified-zkEVM/ArkLib/blob/main/CONTRIBUTING.md#citation-standards so that it integrates with the knowledge base once implemented.

File: ArkLib/Data/Polynomial/FoldingPolynomial.lean [hunk 2]
```diff
@@ -0,0 +1,812 @@
...
+      \]
+      has degree 
+      \[
+          \deg(\hat{f}) < t \cdot \deg(\hat{q}).
+      \]
+  \end{itemize}
+  ```
+-/
+
+set_option linter.style.induction false
```
Comment (alexanderlhicks) [inline ArkLib/Data/Polynomial/FoldingPolynomial.lean]: Would be nice to avoid induction' at this point. Did it show up due to Aristotle?

File: ArkLib/Data/Polynomial/FoldingPolynomial.lean [hunk 3]
```diff
@@ -0,0 +1,812 @@
...
+
+/-- The definition of the folding polynomial `Q` 
+    from the proposition that takes `fuel` value
+    as the upper bound of number of steps needed 
+    to produce the polynomial `Q`. -/
+noncomputable def foldingPolynomialAux (q f : F[X]) (fuel : ℕ) : F[X][Y] :=
+  if q.degree ≤ 0 then Polynomial.map C f else
+  if f.degree < q.degree then Polynomial.map C f
+  else
+  match fuel with
```
Comment (alexanderlhicks) [inline ArkLib/Data/Polynomial/FoldingPolynomial.lean:80]: This must be the first time I see fuel used in this way. Not actually sure what to make of it. 😅

File: ArkLib/Data/Polynomial/FoldingPolynomial.lean [hunk 4]
```diff
@@ -0,0 +1,812 @@
...
+      deg₁ ≥ f.natDegree → 
+        deg₂ ≥ f.natDegree →
+          foldingPolynomialAux q f deg₁ = foldingPolynomialAux q f deg₂ := by
+      intro deg₁ deg₂ h₁ h₂
+      induction' deg₁ with deg₁ ih generalizing deg₂ f
+      · simp_all +decide only [ge_iff_le, nonpos_iff_eq_zero, natDegree_eq_zero_iff_degree_le_zero]
+        rw [Polynomial.eq_C_of_degree_le_zero h₁] 
+        simp +decide only [foldingPolynomialAux, map_C, ite_self] 
+        induction' deg₂ with deg₂ ih 
+          <;> simp_all only
```
Comment (alexanderlhicks) [inline ArkLib/Data/Polynomial/FoldingPolynomial.lean:144]: style guide might complain about use of <;>

File: ArkLib/Data/Polynomial/FoldingPolynomial.lean [hunk 5]
```diff
@@ -0,0 +1,812 @@
...
+                · aesop
+              exact le_trans h_deg (Nat.sub_le_sub_right hdeg _) 
+                |> le_trans 
+                <| Nat.sub_le_sub_left (Polynomial.natDegree_pos_iff_degree_pos.mpr h₂) _
+            apply folding_polynomial_aux_natDegree_fuel_is_enough 
+            assumption
+          rw [h_fold_eq]
+      exact h_fold le_rfl
+
+lemma eq_zero_of_folding_polynomial_eq_zero {q f : F[X]}
```
Comment (alexanderlhicks) [inline ArkLib/Data/Polynomial/FoldingPolynomial.lean:241]: style guide might complain about lack of docstring here

File: ArkLib/Data/Polynomial/SplitFold.lean
Comment (alexanderlhicks) [inline ArkLib/Data/Polynomial/SplitFold.lean]: Julian usually goes by Julian Sutherland rather than Julek no?

Comment (alexanderlhicks) [inline ArkLib/Data/Polynomial/SplitFold.lean]: Will it? I thought we basically got rid of evenandodd.lean (or whatever it was)?

File: ArkLib/Data/Polynomial/FoldingPolynomial.lean (hunk 3 above)
Comment (ElijahVlasov) [reply ArkLib/Data/Polynomial/FoldingPolynomial.lean:80]: It's pretty common. E.g., https://github.com/leanprover-community/mathlib4/blob/3853566136cf0dc70f8bbfb204750ba13d7acbb0/Mathlib/Data/Num/Prime.lean#L35

Comment (ElijahVlasov) [reply ArkLib/Data/Polynomial/FoldingPolynomial.lean:80]: Anyway, added a comment. Tell me if it looks good

File: ArkLib/Data/Polynomial/SplitFold.lean
Comment (ElijahVlasov) [reply ArkLib/Data/Polynomial/SplitFold.lean]: Neither is Elijah my legal name 😅

Comment (ElijahVlasov) [reply ArkLib/Data/Polynomial/SplitFold.lean]: Removed mentions of EvenAndOdd.lean

File: ArkLib/Data/Polynomial/FoldingPolynomial.lean (hunk 3 above)
Comment (alexanderlhicks) [reply ArkLib/Data/Polynomial/FoldingPolynomial.lean:80]: Yep, I'm fine with it. Mostly ignorance on my part! Thanks!

**Review by alexanderlhicks — APPROVED** [review]
